* Z:\mnt\spice-netlists\LTC3613_V22N2_F1.asc
R1 OUT N011 20K
R2 N011 0 20K
D1 N001 N005 1N5818
L1 N007 OUT .56µ
C1 N008 0 220p
V1 IN 0 14
C2 N010 0 .001µ
C3 N005 N007 .1µ
C4 0 N001 4.7µ
R3 N006 0 115K
XU1 0 N011 N010 N008 N004 N006 NC_01 NC_02 N003 IN N001 0 IN N007 MP_03 N005 N002 N009 OUT OUT 0 LTC3613
R4 N001 N002 100K
C5 OUT 0 100µ x2
R5 N001 N004 52.3K
R6 N004 0 10K
C6 IN 0 82µ
C7 0 IN 10µ
R7 N007 N009 3.09K
C8 OUT N009 0.1µ
V2 N003 0 PULSE(0 3.3 0 1n 1n 1.43u 2.86u)
C9 OUT 0 330µ
Rload OUT 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .8m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LTC3613- 24V, 15A Monolithic Step Down Regulator with Differential Output Sensing\nHigh Efficiency High Power Step-Down Converter\nInput: 4.5V to 24V     Output: 1.2V @ 12A
.lib LTC3613.sub
.backanno
.end
