* Z:\mnt\spice-netlists\LTC1871_sepic.asc
M§Q1 N003 N007 0 0 Si4840DY
R1 N008 0 80.6K
R2 N009 0 12.4K
R3 OUT N009 110K
L1 IN N003 4.6µ
D1 N004 OUT MBR735
R4 N006 N005 33.2K
C1 N005 0 6800p
C2 N006 0 50p
XU1 N002 N006 N009 N008 N001 0 N007 N001 IN N003 LTC1871
V1 IN 0 15
C3 N001 0 4.7µ
L2 0 N004 4.6µ
I1 OUT 0 2A load
C4 IN 0 33µ
C5 N004 N003 10µ
C6 OUT 0 150µ
R5 N002 0 133K
R6 IN N002 274K
C7 0 OUT 10µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1m startup
* LTC1871 - 2A SEPIC DC/DC Converter\nInput: 5V-15V  Output: 12V@2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTC1871.sub
.backanno
.end
