* Z:\mnt\spice-netlists\LTM8042-1.asc
V1 IN 0 12
R1 N006 0 16.9K
C1 N001 0 10µ
D1 N005 0 LXK2-PW14 N=7
C2 IN 0 2.2µ
C3 0 N007 .01µ
M§Q1 N005 N002 N004 N004 FDS6975
V2 N003 0 PWL(0 0 1u 2)
XU1 IN N003 IN N006 0 N007 IN N008 MP_01 MP_02 IN N004 N001 N002 MP_03 MP_04 0 LTM8042-1
R2 N008 0 19.6K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m
* LTM8042-1 350mA uModule Boost LED Driver\nInput: 12V       Output: 350mA through a string of 7 LEDs\nfsw = 950kHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTM8042-1.sub
.backanno
.end
