* Z:\mnt\spice-netlists\LTM4636-1_DC2230A-B.asc
V1 IN 0 12
C1 N011 0 100p
C2 OUT 0 470µ x3
C3 OUT 0 100µ x8
R3 OUT 0 25m
R4 N007 N010 15K
C4 N010 0 .1µ
R2 N012 0 7.5K
R1 N006 0 34.8K
C5 0 N008 100p
C6 IN 0 150µ
C8 IN 0 22µ x6
R5 N013 N001 10k
C7 N007 0 22µ
XU2 MP_01 N008 0 N012 N011 N001 MP_02 N008 N010 0 OUT N009 N009 N013 N007 IN NC_03 NC_04 OUT MP_05 0 MP_06 N004 N005 N002 N003 MP_07 MP_08 MP_09 NC_10 N006 0 NC_11 N001 IN LTM4636-1
V2 N002 0 5
C9 N002 0 1µ
R6 N002 N004 86.6K
R7 N001 N003 10k
M1 OUT N005 0 0 SUD40N04-10A
C10 N005 0 10n
R8 N005 0 100k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
* LTM4636-1 - 40A ?Module Regulator with Overvoltage/ Overtemperature Protection\nHigh Current Step-Down ?Module Regulator\nInput: 4.7V to 15V     Outputs: 1.0V @ 40A, Fsw = 350kHz
* Notes:\n  A smaller TRACK/SS capacitor is being used to reduce simulation time. Typical value should be 0.1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTM4636-1.sub
.backanno
.end
