* Z:\mnt\spice-netlists\LTM4650-1_DC2378A-B.asc
V1 IN 0 12
R1 N008 0 40.2K
C1 N014 0 .001µ
C2 IN 0 22µ
C3 N015 0 .001µ
C4 OUT1 0 470µ x2
R2 N009 0 90.9K
R3 N002 0 121K
C5 OUT2 0 470µ x2
R4 N001 N003 10K
R5 N001 N004 10K
Iload1 OUT1 0 PWL(600u 0 601u 12.5 680u 12.5 681u 0)
Iload2 OUT2 0 PWL(600u 0 601u 12.5 680u 12.5 681u 0)
C6 OUT1 0 100µ
C7 OUT2 0 100µ
XU1 N014 N011 N008 0 N009 N012 N015 OUT2 OUT1 OUT2 0 N007 NC_01 OUT1 N007 N003 N004 0 N006 MP_02 MP_03 MP_04 MP_05 NC_06 N001 IN MP_07 MP_08 MP_09 MP_10 N005 NC_11 NC_12 0 N002 MP_13 MP_14 NC_15 LTM4650-1
C8 0 N011 47p
R6 N010 N011 21K
C9 0 N010 3300p
R7 N012 N013 20K
C10 0 N013 4700p
C11 0 N012 220p
.tran 750u startup
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* LTM4650 - Dual 25A or Single 50A DC/DC µModule Regulator\nHigh Efficiency Dual 25A Step-Down Regulator with Output Tracking\nInput : 4.5V to 15V     Outputs: 1.5 V @ 25A & 1.0V @ 25A
.lib LTM4650-1.sub
.backanno
.end
