* Z:\mnt\spice-netlists\LTM4650-1_DC2479A-B.asc
V1 IN 0 12
C3 IN 0 22µ
C4 N009 0 .001µ
R2 N007 0 90.9K
R3 N002 0 121K
R4 N001 N003 10K
I1 OUT 0 PULSE(0 12.5 .4m 1u 1u .1m .2m)
C1 OUT 0 330µ
C5 OUT N007 220p
C2 N010 0 4700p
R1 N008 N010 2.55K
XU1 N009 N008 N007 0 N007 N008 N009 OUT NC_01 OUT 0 N006 NC_02 OUT N006 N003 N001 0 N005 MP_03 MP_04 MP_05 MP_06 NC_07 N001 IN MP_08 MP_09 MP_10 MP_11 N004 NC_12 NC_13 0 N002 MP_14 MP_15 NC_16 LTM4650-1
C6 OUT 0 100µ
.tran 800u startup
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* LTM4650-1 - Dual 25A or Single 50A DC/DC µModule Regulator with ±0.8% DC and ±3% Transient Accuracy\nHigh Efficiency Single 50A Step-Down Regulator\nInput : 4.5V to 15V     Outputs: 1V @ 50A
.lib LTM4650-1.sub
.backanno
.end
