* Z:\mnt\spice-netlists\LTM4601.asc
V1 IN 0 12
R1 N002 0 40.2K
C1 OUT 0 22µ
C2 IN 0 47µ
C3 OUT 0 100µ
C4 IN 0 150µ
XU1 IN 0 OUT 0 N003 N003 OUT 0 NC_01 N002 N004 NC_02 NC_03 NC_04 NC_05 NC_06 N001 N005 NC_07 N004 LTM4601
R2 IN N001 100k
C5 OUT N002 100p
C6 N005 0 2200p
Rload OUT 0 .125
.tran 500u
* LTM4601 - 12A, High Efficiency Step-Down DC/DC µModule\nInput: 12V     Output: 1.5V @ 12A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.lib LTM4601.sub
.backanno
.end
