* Z:\mnt\spice-netlists\LTM4602.asc
XU1 N001 N006 N002 N003 N005 N007 N008 N004 0 0 OUT IN LTM4602
V1 IN 0 12
R1 0 N004 66.5K
C1 OUT N004 120p
C2 OUT 0 22µ
I1 OUT 0 5 load
C3 IN 0 47µ
C4 OUT 0 100µ
C5 IN 0 150µ
* LTM4602 - 5A, High Efficiency Step-Down DC/DC µModule\nInput: 12V     Output: 1.5V @ 5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2006 Linear Technology Inc. All rights reserved.
.tran 2.5m startup
* Active Load
.lib LTM4602.sub
.backanno
.end
