* Z:\mnt\spice-netlists\LTM4604.asc
V1 IN 0 5
R1 N001 0 2.37K
C1 OUT 0 22µ
C2 IN 0 10µ
Rload OUT 0 0.62
XU1 0 IN NC_01 NC_02 N001 NC_03 OUT IN LTM4604
.tran 1.2m startup
* LTM4604 - 4A, Step-Down DC/DC µModule in 15mm×9mm×2.3mm LGA package\nInput: 5V     Output: 2.5V @ 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LTM4604.sub
.backanno
.end
