* Z:\mnt\spice-netlists\LTM4605.asc
L1 N001 N002 4.7µ
R1 N004 0 7.5m
R2 0 N008 7.15K
V1 IN 0 15
C2 N010 0 .01µ
R3 N006 N005 100K
Rload OUT 0 2.4
XU1 N008 OUT 0 N001 IN N002 N004 N004 0 N006 N005 N009 N003 N010 N003 N007 NC_01 0 0 NC_02 LTM4605
C3 IN 0 100µ
C4 IN 0 10µ
C7 OUT 0 180µ
R4 N005 N009 4.64K
R5 N009 0 1.21K
R6 IN N003 51K
D1 0 N003 1N750
C6 OUT 0 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
* LTM4605 - 36 VIN, 16 VOUT Buck-Boost DC/DC uModule\nInput: 15V     Output: 12V @ 5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
.lib LTM4605.sub
.backanno
.end
