* Z:\mnt\spice-netlists\LTM4606.asc
V1 IN 0 12
R1 N002 0 19.1K
C1 OUT 0 22µ
C2 IN 0 10µ x2
C3 OUT 0 100µ
C4 OUT N002 47p
XU1 IN 0 OUT 0 N003 MP_01 MP_02 0 NC_03 N002 N004 NC_04 NC_05 NC_06 N006 NC_07 N001 N005 NC_08 N004 LTM4606
C5 N003 0 10µ
R2 IN N001 100K
R3 N006 0 392K
C6 N005 0 .0022µ
C7 IN 0 150µ
Rload OUT 0 0.417
.tran 1.5m startup
* LTM4606 - 6A, Step-Down DC/DC µModule in 15mm×15mm×2.8mm LGA package\nInput: 12V     Output: 2.5V @ 6A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LTM4606.sub
.backanno
.end
